US04711958
To a solution of 32.3 g of ethyl succinate and 29.0 g of 1-naphthaldehyde in 320 ml of absolute ethyl alcohol was added 10.7 g of a 50% sodium hydride (dispersion in mineral oil) with stirring under ice-cooling, and then the mixture was heated under reflux for 30 minutes. To the reaction mixture was added 230 ml of a 2N-aqueous sodium hydroxide soluiton, and then the mixture was heated under reflux for an hour. The reaction mixture was evaporated under reduced pressure, and to the residue was added water. The mixture was extracted with ethyl ether to remove neutral materials. The aqueous layer was acidified by adding concentrated hydrochloric acid, and then extracted with ethyl ether. The ethereal layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. Benzene was added to the residue, and the precipitated crystals were collected by filtration to obtain 26.5 g of 2-(1-naphthylmethylene)succinic acid as yellow crystals.

reactant | ethyl succinate | 32.3 g | C(CCC(=O)[O-])(=O)OCC
reactant | 1-naphthaldehyde | 29.0 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | sodium hydride | [H-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl alcohol | 320 ml | C(C)O | C2H6O
product | 2-(1-naphthylmethylene)succinic acid | 26.5 g | C1(=CC=CC2=CC=CC=C12)C=C(C(=O)O)CC(=O)O | C15H12O4
